US08703758B2
E) N-[(1S)-2-({1-[5-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]acetamide
To tert-butyl [(1S)-2-({1-[5-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]carbamate (375 mg) was added 4M hydrogen chloride/ethyl acetate (5 mL), and the mixture was stirred at room temperature for 15 min and concentrated. Pyridine (5 mL) and acetic anhydride (5 mL) were added to the residue, and the mixture was stirred at room temperature for 10 min. The reaction mixture was concentrated, the residue was purified by silica gel chromatography (NH, hexane/ethyl acetate), and the obtained solid was washed with diethyl ether-hexane to give the title compound (183 mg).

reactant | tert-butyl [(1S)-2-({1-[5-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]carbamate | 375 mg | C1(CC1)COC=1C=CC2=C(N=C(O2)N2CCC(CC2)OC[C@H](C)NC(OC(C)(C)C)=O)C1 | C24H35N3O5
reactant | hydrogen chloride ethyl acetate | 4M, 5 mL | Cl.C(C)(=O)OCC
product | N-[(1S)-2-({1-[5-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]acetamide | 183 mg | C1(CC1)COC=1C=CC2=C(N=C(O2)N2CCC(CC2)OC[C@H](C)NC(C)=O)C1 | C21H29N3O4
